US06310099B1
N,N-Dimethyl-5-ethyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetamide (26 g, 0.073 mol) and 6N NaOH (150 ml) are stirred as a two phase solution with n-BuOH (150 ml) at reflux temperature for 14 hours. After cooling to room temperature, the reaction is poured over ice (500 ml). Toluene (500 ml) is added and the mixture transferred to a separatory funnel. The aqueous phase is brought to a pH of 1 with 3 N HCl. The organic layer is separated and the aqueous phase re-extracted with toluene (250 ml). The combined organic layers are dried (MgSO4) and concentrated under high vacuum (35-50 mbar) on a rotovap taking care not to warm above 50°. Small white needles are obtained by crystallization of the residue from hexane, m.p. 164-166°. Recrystallization from cyclohexane gives 5-ethyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetic acid a white solid, m.p. 165-169°.

reactant | N,N-Dimethyl-5-ethyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetamide | 0.073 mol, 26 g | CN(C(CC1=C(C=CC(=C1)CC)NC1=C(C(=CC(=C1F)F)F)F)=O)C | C18H18F4N2O
reactant | NaOH | 6N, 150 ml | [OH-].[Na+]
reactant | n-BuOH | 150 ml | CCCCO | C4H10O
reactant | HCl | 3 N | Cl | ClH
solvent | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-2-(2′,3′,5′,6′-tetrafluoroanilino)phenylacetic acid | C(C)C=1C=CC(=C(C1)CC(=O)O)NC1=C(C(=CC(=C1F)F)F)F | C16H13F4NO2
